US09284271B2
A mixture of 3-(3-Bromopropyl)-5-chloro-1H-indole (0.730 g; 2.68 mmol) and sodium azide (0.522 g; 8.03 mmol) was stirred in DMF (5 mL) for 18 hours and was then concentrated under reduced pressure. The residue was partitioned between water and dichloromethane. After separation, the organic layer was dried over magnesium sulphate and the volatiles were evaporated under reduced pressure to yield quantitatively 3-(3-Azidopropyl)-5-chloro-1H-indole as an oily residue which was used without purification.

reactant | 3-(3-Bromopropyl)-5-chloro-1H-indole | 2.68 mmol, 0.730 g | BrCCCC1=CNC2=CC=C(C=C12)Cl | C11H11BrClN
reactant | sodium azide | 8.03 mmol, 0.522 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(3-Azidopropyl)-5-chloro-1H-indole | N(=[N+]=[N-])CCCC1=CNC2=CC=C(C=C12)Cl | C11H11ClN4
